US07030118B2
C) 3-Benzyl-2-propyl-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one
To a solution of 1-butyrimidoylamino-1H-pyrrole-2-carboxylic acid ethyl ester (7.6 g, 34 mmol) in dioxane (70 mL) at room temperature was added cesium carbonate (21.7 g, 66.7 mmol). The mixture was heated at 85° C. for 45 min and then benzyl bromide (4.2 mL, 35 mmol) was added. The reaction was stirred at 85° C. for 1 h. After cooling to room temperature, the reaction was filtered through a plug of silica gel and concentrated in vacuo. Purification of the crude product by flash column chromatography (SiO2, EtOAc/Hexane 1:4) gave the title compound as a white solid (8.9 g, 99%): 1H NMR (CDCl3) δ 7.22 (m, 6H), 6.96 (m, 1H), 6.43 (m, 1H), 5.17 (s, 2H), 2.47 (q, 2H, J=7.44 Hz), 1.63 (m, 2H), 0.88 (t, 3H, J=7.4 Hz); 13C NMR (CDCl3) δ 155.7, 149.7, 136.9, 129.3, 128.0, 126.8, 121.0, 118.4, 110.9, 108.8, 45.2, 34.6, 20.5, 14.1; MS (ESI+) 268.12 (M++H).

reactant | 1-butyrimidoylamino-1H-pyrrole-2-carboxylic acid ethyl ester | 34 mmol, 7.6 g | C(C)OC(=O)C=1N(C=CC1)NC(CCC)=N | C11H17N3O2
reactant | cesium carbonate | 66.7 mmol, 21.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl bromide | 35 mmol, 4.2 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dioxane | 70 mL | O1CCOCC1 | C4H8O2
product | 3-Benzyl-2-propyl-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one | 8.9 g, 99% | C(C1=CC=CC=C1)N1C(=NN2C(C1=O)=CC=C2)CCC | C16H17N3O
